US05607927
(e) 7-{(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido}-3-(thiazolo[5,4-b]pyridin-2-yl)thio-3-cephem-4-carboxylic acid
Using 335 mg of diphenylmethyl 7-{(Z)-2-(5-amino1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido}-3-(thiazolo[5,4-b]pyridin-2-yl)thio-3-cephem-4-carboxylate, the reaction and purification process of Inventive Example 1 (d) was repeated to obtain 187 mg of the title compound as a sodium salt (yield, 70%).

reactant | diphenylmethyl 7-{(Z)-2-(5-amino1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido}-3-(thiazolo[5,4-b]pyridin-2-yl)thio-3-cephem-4-carboxylate | 335 mg | NC1=NC(=NS1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC3=NC=CC=C3N2)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C31H24N8O4S4
reactant | sodium | [Na] | Na
product | 7-{(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido}-3-(thiazolo[5,4-b]pyridin-2-yl)thio-3-cephem-4-carboxylic acid | 187 mg | NC1=NC(=NS1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC3=NC=CC=C3N2)C(=S)O)C1=O)=N/OC | C18H14N8O4S4
